US06194406B1
1-(t-Butoxycarbonyl)-4-(1H-benzimidazol-2-yl)[1,4]diazepane
Combine 4-(1H-benzimidazol-2-yl)[1,4]diazepane hydrobromic acid salt (5.2 g, 13.8 mmol), 4/1 tetrahydrofuran/water (100 mL), and sodium bicarbonate (3.47 g, 41.3 mmol). Add di-t-butyl dicarbonate (3.3 g, 15.1 mmol). After 18 hours, concentrate the reaction mixture in vacuo to remove most of the tetrahydrofuran and combine the concentrated reaction mixture with 5% methanol/dichloromethane. Extract with water, dry over Na2SO4, filter, and evaporate in vacuo to give a residue. Chromatograph the residue on silica gel eluting with ethyl acetate to give the title compound: mp; 225-226° C. Rf=0.28 (silica gel, 5% methanol/dichloromethane/0.1% concentrated aqueous ammonia).

reactant | 4-(1H-benzimidazol-2-yl)[1,4]diazepane hydrobromic acid salt | 13.8 mmol, 5.2 g | Br.N1C(=NC2=C1C=CC=C2)N2CCNCCC2
reactant | tetrahydrofuran water | 100 mL | O1CCCC1.O
reactant | sodium bicarbonate | 41.3 mmol, 3.47 g | C([O-])(O)=O.[Na+]
reactant | di-t-butyl dicarbonate | 15.1 mmol, 3.3 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(t-Butoxycarbonyl)-4-(1H-benzimidazol-2-yl)[1,4]diazepane | C(C)(C)(C)OC(=O)N1CCN(CCC1)C1=NC2=C(N1)C=CC=C2 | C17H24N4O2
